US06395718B1
Di-tert-butyl 2-({(tert-butoxy)[(phenylcarbonylamino)methyl]phosphoryl}methyl)pentane-1,5-dioate (8b)
To a solution of di-tert-butyl 2-{[(aminomethyl)-(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate (1.222 g, 3.0 mmol) and benzoyl chloride (0.46 mL, 4.0 mmol) in dichloromethane (10 mL) was added triethylamine (0.56 mL, 4.0 mmol) at 0° C., and the mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with dichloromethane (15 mL), washed with 1 N HCl (25 mL), dried over Na2SO4, and concentrated. The crude material was purified by silica gel chromatography (ethyl acetate/hexanes=2/1) to give 1.259 g of colorless oil (74% yield).

reactant | di-tert-butyl 2-{[(aminomethyl)-(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate | 3.0 mmol, 1.222 g | NCP(=O)(OC(C)(C)C)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C19H38NO6P
reactant | benzoyl chloride | 4.0 mmol, 0.46 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Di-tert-butyl 2-({(tert-butoxy)[(phenylcarbonylamino)methyl]phosphoryl}methyl)pentane-1,5-dioate | 1.259 g, 74% yield | C(C)(C)(C)OP(=O)(CNC(=O)C1=CC=CC=C1)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C26H42NO7P
